US09382241B2
Step 1: 4-bromo-N-(2-pyrrolidin-1-ylethyl)pyridin-2-amine 55-A
To a 4 mL screw-cap vial was added 4-bromo-2-fluoro-pyridine (100 mg, 0.57 mmol), 2-pyrrolidin-1-ylethanamine (1.1 equiv., 0.63 mmol, 71 mg), and dimethylformamide (0.25 mL). The reaction was capped and shaken at 100° C. for 3 h. TLC showed new spot, with no starting material present. The reaction was concentrated, and 4-bromo-N-(2-pyrrolidin-1-ylethyl)pyridin-2-amine was carried directly on to the Suzuki cross-coupling step.

reactant | 4-bromo-2-fluoro-pyridine | 0.57 mmol, 100 mg | BrC1=CC(=NC=C1)F | C5H3BrFN
reactant | 2-pyrrolidin-1-ylethanamine | 0.63 mmol, 71 mg, 1.1 equiv. | N1(CCCC1)CCN | C6H14N2
solvent | dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
product | 4-bromo-N-(2-pyrrolidin-1-ylethyl)pyridin-2-amine | BrC1=CC(=NC=C1)NCCN1CCCC1 | C11H16BrN3
